US07863291B2
To 6,8-dichloro-3-isothiocyanatoisoquinoline (0.17 g, 0.67 mmol) in DMF (10 mL) was added cesium carbonate (0.543 g, 1.67 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.15 g, 0.67 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The product was treated with N,N′-diisopropylcarbodiimide (0.31 mL, 2.0 mmol). The reaction was heated to 90° C. for 4 hours. The reaction was cooled to room temperature and concentrated to yield the crude product. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was taken up in a small amount of ethyl acetate, which resulted in the formation of a precipate. It was filtered off, washed with a small amount of ethyl acetate, and dried in a vacuum oven to yield (R)—N-(6,8-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.094 g, 0.24 mmol, 36.6% yield) as a white powder. 1H NMR (400 MHz, DMSO-D6) δ ppm 9.23 (s, 1H), 8.71-8.83 (m, 1H), 7.90-8.00 (m, 1H), 7.57-7.67 (m, 1H), 7.13-7.24 (m, 1H), 3.79-3.90 (m, 1H), 3.53-3.64 (m, 1H), 2.93-3.04 (m, 2H), 2.72-2.82 (m, 2H), 2.61-2.70 (m, 2H), 1.99 (s, 1H), 1.90 (s, 1H), 1.59 (d, J=4.78 Hz, 2H), 1.40-1.50 (m, 1H). MS (LC/MS) R.T.=1.68; [M+H]+=377.1.

reactant | 6,8-dichloro-3-isothiocyanatoisoquinoline | 0.67 mmol, 0.17 g | ClC=1C=C2C=C(N=CC2=C(C1)Cl)N=C=S | C10H4Cl2N2S
reactant | cesium carbonate | 1.67 mmol, 0.543 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.67 mmol, 0.15 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 2.0 mmol, 0.31 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6,8-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.24 mmol, 0.094 g, 36.6% yield | ClC=1C=C2C=C(N=CC2=C(C1)Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H18Cl2N4O
